US04567184
Benzyl-3-(hexanoyl)phenyl ether
To a suspension of pyridinium chlorochromate (32.3 g) in methylene chloride (200 ml) was added a solution of benzyl-3-[1-hydroxyhexyl]phenyl ether (28.4 g.) in methylene chloride (25 ml). The reaction was stirred at room temperature for 11/2 hours. The excess methylene chloride was decanted and residual black solid was triturated with ethyl ether (four times.) The combined organic extract was purified on flurosil using ethyl ether as an eluent (27.5 g., 98% yield).

reactant | pyridinium chlorochromate | 32.3 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | benzyl-3-[1-hydroxyhexyl]phenyl ether | 28.4 g | C(C1=CC=CC=C1)C1=C(C=CC=C1C(CCCCC)O)OC1=C(C(=CC=C1)C(CCCCC)O)CC1=CC=CC=C1 | C38H46O3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Benzyl-3-(hexanoyl)phenyl ether | 98% yield | C(C1=CC=CC=C1)C1=C(C=CC=C1C(CCCCC)=O)OC1=C(C(=CC=C1)C(CCCCC)=O)CC1=CC=CC=C1 | C38H42O3
